US08202873B2
3′-Chloro-4-(1,3,5-trimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine
To a suspension of 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride (2.11 g, 7.77 mmol, 1 eq) in tetrahydrofuran (20 mL) add 1,3,5-trimethyl-1H-pyrazole-4-carbaldehyde (1.61 g, 11.65 mmol, 1.5 eq). Stir for 10 min and add sodium triacetoxyborohydride (4.20 g, 19.40 mmol, 2.5 eq) in one portion. Stir at room temperature under nitrogen for 1 hr., then add further 1,3,5-trimethyl-1H-pyrazole-4-carbaldehyde (0.50 g, 3.6 mmol, 0.47 eq). Stir for 30 min., add saturated aqueous sodium hydrogen carbonate (100 mL) slowly, and then extract with DCM (3×50 mL). Pass the combined DCM extracts through an IST Phase Separator Frit®, concentrate and purify (silica gel chromatography, eluting with 2:98 to 5:95 methanol:DCM), to give the title preparation as a white powder (2.468 g, 98%). MS (ES): m/z=321 [M+H]+.

reactant | 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 7.77 mmol, 2.11 g, 1 eq | Cl.Cl.ClC=1C(=NC=CN1)N1CCNCC1
reactant | 1,3,5-trimethyl-1H-pyrazole-4-carbaldehyde | 11.65 mmol, 1.61 g, 1.5 eq | CN1N=C(C(=C1C)C=O)C | C7H10N2O
reactant | sodium triacetoxyborohydride | 19.40 mmol, 4.20 g, 2.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,3,5-trimethyl-1H-pyrazole-4-carbaldehyde | 3.6 mmol, 0.50 g, 0.47 eq | CN1N=C(C(=C1C)C=O)C | C7H10N2O
reactant | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3′-Chloro-4-(1,3,5-trimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1C)C)C | C15H21ClN6
